US03983243
To a solution containing 8.6 g. of sodium dissolved in 172 ml. of absolute methanol, then was added dropwise over a period of 30 minutes, 111 g. of 1-bromo-3,7,10,11-tetramethyl-2,6,10-dodecatriene. The reaction mixture was refluxed for 16 hours. After reflux, the reaction mixture was dried under vacuum and poured onto ice water. The resulting mixture was exhaustively extracted with petroleum ether (b.p. 40°-45°C.). The combined petroleum ether extracts were washed neutral with saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated. By chromatography on Kieselgel with hexane/diethylether (95:5 parts by volume) and distillation, there was obtained 1-methoxy-3,7,10,11-tetramethyl-2,6,10-dodecatriene, b.p. 87°-88°C./0.02 mmHg; nD20 = 1.4826

reactant | sodium | [Na] | Na
reactant | 1-bromo-3,7,10,11-tetramethyl-2,6,10-dodecatriene | BrCC=C(CCC=C(CCC(=C(C)C)C)C)C | C16H27Br
reactant | methanol | CO | CH4O
product | 1-methoxy-3,7,10,11-tetramethyl-2,6,10-dodecatriene | COCC=C(CCC=C(CCC(=C(C)C)C)C)C | C17H30O
